US09303028B2
Step 3. 7-fluoroquinolin-2-yl trifluoromethanesulfonate
To a cooled (0° C.) solution of 7-fluoroquinolin-2(1H)-one (1.60 g, 9.81 mmol) in pyridine (40 mL) was added trifluoromethanesulfonic anhydride (2.2 mL, 13.10 mmol, Aldrich) via syringe. After complete addition, the reaction was allowed to warm to RT and stirred for 1 h. The solvent was removed in vacuo and the residue was azeotroped with toluene. The residue was stirred vigorously over Et2O, filtered and washed with Et2O. The filtrate was concentrated to dryness to give 2.50 g (86%) of an orange oil. m/z=295.9 (M+1).

reactant | 7-fluoroquinolin-2(1H)-one | 9.81 mmol, 1.60 g | FC1=CC=C2C=CC(NC2=C1)=O | C9H6FNO
reactant | trifluoromethanesulfonic anhydride | 13.10 mmol, 2.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 7-fluoroquinolin-2-yl trifluoromethanesulfonate | 2.50 g, 86% | FC(S(=O)(=O)OC1=NC2=CC(=CC=C2C=C1)F)(F)F | C10H5F4NO3S
